US07122672B2
In a similar procedure to Example 6 Stage 2, 3-bromo-6-hydroxyquinoline was reacted with 2-bromo-N-(1-methoxy-4-methylpent-2-yn-4-yl) 3-methoxypropionamide to give 2-(3-bromo-6-quinolinyloxy)-N-(1-methoxy-4-methylpent-2-yn-4-yl) 3-methoxypropionamide as a gum. 1H NMR (CDCl3) δ: 1.58(3H, s); 1.59(3H, s); 1.77(3H, s0; 3.44(3H, s); 3.87–3.95(2H, m); 4.73(1H, m); 6.52(1H, s); 7.08(1H, m); 7.48(1H, dd); 8.02(1H, d); 8.21(1H, m); 8.79(1H, m).

reactant | 3-bromo-6-hydroxyquinoline | BrC=1C=NC2=CC=C(C=C2C1)O | C9H6BrNO
reactant | 2-bromo-N-(1-methoxy-4-methylpent-2-yn-4-yl) 3-methoxypropionamide | BrC(C(=O)NC(C#CCOC)(C)C)COC | C11H18BrNO3
product | 2-(3-bromo-6-quinolinyloxy)-N-(1-methoxy-4-methylpent-2-yn-4-yl) 3-methoxypropionamide | BrC=1C=NC2=CC=C(C=C2C1)OC(C(=O)NC(C#CCOC)(C)C)COC | C20H23BrN2O4
